US05731299
A mixture of 1 g of 1-phosphono-2-(3-pyridinylamino)ethanesulfonic acid and 0.5 g of palladium on charcoal catalyst in 50 ml of distilled water is hydrogenated on a Parr apparatus at 40 PSI for about 2 days. The catalyst is removed by filtration, and the filtrate is concentrated to a few mls. Ethanol is added slowly to precipitate a solid, which is recrystallized from water/ethanol to afford 1-phosphono-2-(3-piperidinylamino)ethanesulfonic acid.

reactant | 1-phosphono-2-(3-pyridinylamino)ethanesulfonic acid | 1 g | P(=O)(O)(O)C(CNC=1C=NC=CC1)S(=O)(=O)O | C7H11N2O6PS
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
solvent | water | 50 ml | O | H2O
product | 1-phosphono-2-(3-piperidinylamino)ethanesulfonic acid | P(=O)(O)(O)C(CNC1CNCCC1)S(=O)(=O)O | C7H17N2O6PS
